US05730902
Preparation of (S)-4-(trans-4-n-pentyl-4-silacyclohexyl)-1-(2-methylbutyl)-2,6-difluorobenzene
The general procedure of Example 18 was repeated using (S)-1-bromo-2-methylbutane and (2,6-difluoro-4-(4-n-pentyl-4-phenyl-4-silacyclohexyl)phenyl) trifluoromethanesulfonate, thereby obtaining the intended compound.

reactant | (S)-1-bromo-2-methylbutane | BrC[C@H](CC)C | C5H11Br
reactant | (2,6-difluoro-4-(4-n-pentyl-4-phenyl-4-silacyclohexyl)phenyl) trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C=C(C=C1F)C1CC[Si](CC1)(C1=CC=CC=C1)CCCCC)F)(F)F | C23H27F5O3SSi
product | (S)-4-(trans-4-n-pentyl-4-silacyclohexyl)-1-(2-methylbutyl)-2,6-difluorobenzene | C(CCCC)[Si@@H]1CC[C@H](CC1)C1=CC(=C(C(=C1)F)C[C@H](CC)C)F | C21H34F2Si
